Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Celery / triclosan / hydrogen peroxide / dust mites / nuts / 
carrots / soy
 
Attending: ___.
 
Chief Complaint:
dysuria, urgency
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo male with a remote hx of nephrolithiasis and remote hx of 
prostatitis ___ yrs ago, pt does not recall circumstances), 
depression who presents for abd pain and fever.  
 The patient endorses 2 weeks of constipation associated with 
mild lower quadrant abdominal pain. He had been attempting a 
home bowel regiment including miralax, docusate, and enemas with 
minimal effect.  
 Since ___ AM, he noted burning on urination as well as urgency 
and near-incontinence from urgency. He has also had intermittent 
fevers (103.5° evening ___, and 101.5° at 0600 on morning of 
admission). He went to urgent care on ___ at ___/Doctors 
___ (No. ___, ___ where urinalysis 
reportedly showed hematuria/proteinuria/trace pyuria and urine 
culture was obtained. He then began TMP/___ *after* this ___ 
visit, and has taken 5 doses so far. He went to ___ on the day 
of admission for evaluation. There he was afebrile. Exam was 
notable for mild RLQ pain, rectal with normal sphincter tone; no 
masses in rectal vault; prostate 2+/4, no nodules, moderately 
tender to palpation. He was sent to ED for persistent fevers and 
persistent urinary symptoms.  
 In the ED, initial vitals were 98.4 ___ 18 100% RA  
 Labs notable for wbc 3.8 pmn predominant, lactate 1.5. BUN 6 Cr 
1.1 (at baseline). LFTs: ALT 111 AST 48. AP 117 Tbili 0.3.  
 CT abd/pelvis showed: Circumferential urinary bladder wall 
thickening may be secondary to partial underdistention. 
Recommend correlation with urinalysis.  
 He was given:  
 ___ 13:21 PO Acetaminophen 1000 mg ___  
 ___ 14:42 IVF NS ___ Started  
 ___ 14:42 PO Magnesium Citrate 300 mL ___ 
___  
 ___ 15:34 IV Lorazepam 1 mg ___  
 ___ 15:42 IVF NS 1 mL ___ Stopped (1h 
___  
 On the floor he reports his abodominal pain has completely 
resolved after having a large BM in the ED. Not currently having 
urgency or dysuria. No fevers since night prior to presentation. 
Denies back pain. Denies new sexual partners, denies genital 
lesions, sexually active with ___ female partner for past ___ years. 
He does not recall the details of his prior episode of 
prostatitis or whether his current symptoms feel similar.  
 
Past Medical History:
Significant for hyperlipidemia, depression, anxiety, prediabetes 
and sleep apnea
 
Social History:
___
Family History:
Mother, coronary artery disease in her ___, status post triple  
 bypass, lung cancer (nonsmoker)s.p lobectomy, CLL, ___ 
___ disease and anemia. Maternal uncle, colon cancer and 
heart attack, age ___. Paternal grandfather, ___.  
 Father, hypothyroidism, high blood pressure. Paternal uncle,  
 ___, thyroid cancer, and hypothyroidism.  
 Paternal grandmother, ___ and scoliosis.  
 
 
Physical Exam:
ON ADMISSION:
 VS 99.7 PO ___  
 GENERAL: pleasant middle-aged man in no distress  
 HEENT: NC/AT; mucus membranes are moist  
 Lungs: CTAB  
 CV: RRR no murmur  
 Back: No CVA tenderness  
 ABD: Obese, mildly disteneded, no tenderness to deep palpation, 
no guarding.  
 Ext: wwp with no edema.  
 Rectal exam was not repeated  

ON DISCHARGE:
Vitals:  98.9 132/94 96 18 96 Ra 
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: mildly distended, soft, NABS, pain in suprapubic area, 
no rebound/guarding
GU: no foley 
Rectal: prostate normal in size, no nodules or masses palpated, 
pain with palpation, brown stool present on finger (performed on 
___
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
 
Pertinent Results:
UPON ADMISSION:

___ 02:49PM BLOOD WBC-3.8* RBC-4.54* Hgb-13.0* Hct-38.8* 
MCV-86 MCH-28.6 MCHC-33.5 RDW-13.5 RDWSD-42.4 Plt ___
___ 02:49PM BLOOD Glucose-104* UreaN-6 Creat-1.1 Na-133 
K-4.0 Cl-97 HCO3-23 AnGap-17
___ 02:49PM BLOOD ALT-111* AST-48* AlkPhos-117 TotBili-0.3
___ 02:49PM BLOOD Albumin-4.0 Calcium-8.8 Phos-2.6* Mg-1.8

UPON DISCHARGE:

___ 07:04AM BLOOD WBC-4.6# RBC-4.81 Hgb-13.5* Hct-41.1 
MCV-85 MCH-28.1 MCHC-32.8 RDW-13.7 RDWSD-42.6 Plt ___
___ 07:04AM BLOOD Glucose-116* UreaN-12 Creat-1.0 Na-139 
K-4.6 Cl-102 HCO3-20* AnGap-22*
___ 07:04AM BLOOD ALT-81* AST-33 AlkPhos-136* TotBili-0.2

IMAGING:
CT ABD/PELVIS ___
IMPRESSION: 
 
Circumferential urinary bladder wall thickening may be secondary 
to partial
underdistention.  Recommend correlation with urinalysis.

 
Brief Hospital Course:
___ yo M with PMH of nephrolithiasis, prediabetes, depression who 
presents for evaluation of abd pain, urgency, dysuria and fever.

#ACUTE PROSTATITIS
Prior to evaluation, pt reported urinary urgency, dysuria and 
fevers that started on ___. Was seen at urgent 
care on ___ and u/a was c/f UTI. Started on Bactrim. After 
initiation of abx, fevers and urinary sx persisted. Was seen at 
___ and sent to ED for urgent evaluation. CT of the 
abdomen/pelvis in the ED showed "urinary bladder wall 
thickening" w/o evidence of other acute abnormality. U/a at 
___ noteable for trace leukocytes and negative nitrates. Urine 
culture was w/o growth at ___, although urinary culture data 
from urgent care revealed >100,000 E coli pan sensitive. Patient 
was initially febrile. Rectal exam revealed significant 
tenderness of the prostate. Given urgency, dysuria, persistent 
fevers, and tenderness on exam, diagnosis thought to be acute 
bacterial prostatitis. Pt remained afebrile after initial 
presentation and sx improved. HIV, chlamydia and gonorrhea were 
collected, and are pending at discharge. Pt started on 
ciprofloxacin 500 BID and he should complete 6 week course (end 
date ___.

Of note, ciprofloxacin has interaction with venlafaxine (QTC 
prolongation). Benefit thought to outweigh risk and pt was 
continued on cipro. At discharge, QTC was 385 ms.

#Abdominal pain:  
#Contipation 
Likely due to constipation primarily as it resolved entirely 
after large BM in ED. UTI may have been contributing as well. 
Treated with senna, colace, miralax and prn mild of mag  

#Transaminitis: LFTs elevated here as well as at PCP ___. 
Suspect to be due to NAFLD given prediabetes, obesity, HLD.  
#Anxiety, depression:  
-continued venlafaxine  
#Hyperlipidemia.  
-has not been taking atorva - transitional issue  
#Sleep apnea.  
-cont cpap  

**TRANSITIONAL ISSUES**
New medication: Ciprofloxacin 500 mg PO BID, ___nd 
date ___
-Patient noted to have mild anemia during hospitalization. 
Should recheck CBC. Also noted to have mild transaminitis, 
likely related to NAFLD. Please follow up.
-Follow up urine chlamydia/gonorrhea and HIV test
-Please obtain EKG at follow up appointment given venlafaxine 
and ciprofloxacin administration
-Encourage atorvastatin use as pt was not taking upon admission
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. dextroamphetamine-amphetamine 30 mg oral DAILY 
2. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
3. Ketoconazole 2%  1 Appl TP BID 
4. Ketoconazole Shampoo 1 Appl TP ASDIR 
5. Sildenafil Dose is Unknown  PO 1X:ASDIR 
6. Venlafaxine 150 mg PO BID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice daily 
Disp #*84 Tablet Refills:*0 
2.  Sildenafil 20 mg PO 1X:ASDIR  
3.  dextroamphetamine-amphetamine 30 mg oral DAILY  
4.  Ketoconazole 2%  1 Appl TP BID  
5.  Ketoconazole Shampoo 1 Appl TP ASDIR  
6.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  
7.  Venlafaxine 150 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Acute bacterial prostatitis

Secondary diagnoses:
Constipation
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Why did I come to the hospital?
-You came to the hospital with urinary urgency and painful 
urination as well as fevers despite antibiotics

What happened while I was in the hospital?
-We obtained your urine culture from the urgent care which 
showed E Coli in the urine. We believe your symptoms are related 
to infection of the prostate.

What should I do when I go home?
-Continue to take ciprofloxacin at home. This is a medication 
that needs to be taken once in the morning and once at night. 
You will be on this medication for a total of 6 weeks. You 
should take this antibiotic through ___.
-We have set you up with a follow up appointment with your 
primary care doctor.

It was a pleasure taking care of you.

Best,
Your ___ Team 
 
Followup Instructions:
___